data/oMe_Silver.jsonl
{"reaction_id": "NR-112_1-c2ccccc2_2-F_3-C#N_4-C(C)(C)C_5-C(C)C","name": "Houben-Hoesch Reaction","level": "medium","reactants_smiles": ["c1c(O)c(c2ccccc2)c(F)c(C#N)c1C(C)(C)C","C(C(C)C)#N"],"products_smiles": ["c1(C(=O)C(C)C)c(O)c(c2ccccc2)c(F)c(C#N)c1C(C)(C)C"],"conditions": "i. ZnCl2, HCl ii. H2O","mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1(C(=N[Zn])C(C)C)C(=[OH+])c(c2ccccc2)c(F)c(C#N)c1C(C)(C)C","rationale": "ZnCl2 coordinates to the nitrile nitrogen, increasing the electrophilicity of the carbon and enabling nucleophilic attack by the activated aromatic ring via resonance donation from the phenolic OH."},{"step": 2,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "c1(C(=[NH])C(C)C)c(O)c(c2ccccc2)c(F)c(C#N)c1C(C)(C)C","rationale": "Proton elimination restores aromaticity, a thermodynamically favored process, stabilizing the intermediate through delocalization over the aromatic ring."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1(C(=[NH2+])C(C)C)c(O)c(c2ccccc2)c(F)c(C#N)c1C(C)(C)C","rationale": "Acidic conditions protonate the imine nitrogen, making it more susceptible to nucleophilic attack by water in the subsequent hydrolysis step."},{"step": 4,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "c1(C(=O)C(C)C)c(O)c(c2ccccc2)c(F)c(C#N)c1C(C)(C)C","rationale": "Water attacks the protonated imine carbon, and subsequent rearrangement leads to C=O formation, driven by the stability of the aryl ketone product under acidic hydrolysis conditions."}],"description": "Under acidic ZnCl2 catalysis, the phenol activates towards electrophilic attack by a nitrilium ion derived from the nitrile. Subsequent proton transfers and hydrolysis yield the aryl ketone. ZnCl2 coordinates to oxygen/nitrogen, enhancing electrophilicity and stabilizing intermediates."}
{"reaction_id": "NR-202_1-C1CCCCC1_2-c1ccc2ccccc2c1_3-C1CCCCC1","level": "medium","name": "Neber Rearrangement","reactants_smiles": ["C(C1CCCCC1)(c1ccc2ccccc2c1)C(=NOS(=O)(=O)c1ccc(C)cc1)C1CCCCC1"],"products_smiles": ["C1CCCCC1C(=O)C(C1CCCCC1)(c1ccc2ccccc2c1)N"],"conditions": "Base, H2O","mechanism_step_nums": 6,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[C-](C1CCCCC1)(c1ccc2ccccc2c1)C(=NOS(=O)(=O)c1ccc(C)cc1)C1CCCCC1","step_weight": 0,"rationale": "The base abstracts the relatively acidic alpha-proton due to resonance stabilization of the resulting carbanion by the adjacent oxime group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1CCCCC1C2=NC(C1CCCCC1)(c1ccc2ccccc2c1)2","step_weight": 0,"rationale": "The nucleophilic carbanion attacks the oxime nitrogen intramolecularly, forming a strained azirine ring and displacing the tosylate, a good leaving group stabilized by resonance."},{"step": 3,"type": "rearrangement","subtype": "rearrangement","intermediate_smiles": "C(C1CCCCC1)2(C(C1CCCCC1)(c1ccc2ccccc2c1)[N-]2)O","step_weight": 0,"rationale": "Water adds to the electrophilic azirine carbon, driven by ring strain relief and polarization of the C–N bond."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C1CCCCC1)2(C(C1CCCCC1)(c1ccc2ccccc2c1)[NH]2)[O-]","step_weight": 0,"rationale": "Proton transfer from the coordinated water to nitrogen stabilizes the intermediate, favored in aqueous medium."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C1CCCCC1C(C(C1CCCCC1)(c1ccc2ccccc2c1)[NH-])=O","step_weight": 0,"rationale": "Elimination of hydroxide from the intermediate occurs to form the carbonyl, driven by the stability of the ketone and the good leaving ability of hydroxide under these conditions."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1CCCCC1C(=O)C(C1CCCCC1)(c1ccc2ccccc2c1)N","step_weight": 0,"rationale": "Final protonation of the nitrogen yields the neutral alpha-amino ketone, favored under aqueous conditions for product stability."}],"description": "Under basic aqueous conditions, the alpha-proton adjacent to the oxime tosylate is deprotonated, enabling intramolecular cyclization to an azirine via tosylate departure. Subsequent hydrolytic ring opening, proton transfers, and rearrangement yield the thermodynamically stable alpha-amino ketone."}
